US09290468B2
Step 10: 4-fluoro-5-((2-fluoro-4-iodophenyl)amino)-N-(2-(vinyloxy)ethoxy)benzo[d]thiazole-6-carboxamide
To a solution of O-(2-(vinyloxy)ethyl)hydroxyl-amine (172 mg, 1.62 mmol) in THF (6 mL) was added LiHMDS (2.5 mL, 1 M in THF, 2.5 mmol) at −78° C. After stirring at this temperature for 10 min, a solution of methyl 4-fluoro-5-((2-fluoro-4-iodophenyl)amino)benzo[d]thiazole-6-carboxylate (360 mg, 0.81 mmol) in THF was syringed dropwisely. Then the mixture was allowed to warm to ambient temperature, quenched with saturated NH4Cl (aq., 20 mL) and extracted with ethyl acetate (15 mL×3). The combined organic extract was washed with water (10 mL×3) and brine (10 mL), dried over Na2SO4, filtered and concentrated in vacuo. After purification by flash chromatography (petroleum ether/ethyl acetate, 10:1, v/v), the desired product was obtained (410 mg, 98% yield). 1H NMR (400 MHz, DMSO-d6): δ 11.85 (s, 1H), 8.98 (s, 1H), 8.04 (s, 1H), 7.89 (s, 1H), 7.55 (d, J=10.8 Hz, 1H), 7.31 (d, J=8.1 Hz, 1H), 6.53 (dd, J=13.9, 6.6 Hz, 1H), 6.42 (d, J=6.0 Hz, 1H), 4.21 (d, J=14.5 Hz, 1H), 4.01 (m, 3H), 3.83 (m, 2H).

reactant | O-(2-(vinyloxy)ethyl)hydroxyl-amine | 1.62 mmol, 172 mg | C(=C)OCCON | C4H9NO2
reactant | LiHMDS | 2.5 mmol, 1 M, 2.5 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | methyl 4-fluoro-5-((2-fluoro-4-iodophenyl)amino)benzo[d]thiazole-6-carboxylate | 0.81 mmol, 360 mg | FC1=C(C(=CC2=C1N=CS2)C(=O)OC)NC2=C(C=C(C=C2)I)F | C15H9F2IN2O2S
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 4-fluoro-5-((2-fluoro-4-iodophenyl)amino)-N-(2-(vinyloxy)ethoxy)benzo[d]thiazole-6-carboxamide | 98% yield | FC1=C(C(=CC2=C1N=CS2)C(=O)NOCCOC=C)NC2=C(C=C(C=C2)I)F | C18H14F2IN3O3S
